US09065061B2
Step 1: Synthesis of 4-(2,6-dimethylphenyl)-3-ethyl-5-(4-fluorophenyl)-4H-1,2,4-triazole (abbreviation: HEFptz-dmp)
First, 1.80 g of ethyl propionate, 10 mL of 1-butanol, and 0.88 g of hydrazine monohydrate (NH2NH2.H2O) were put in a 100 mL three-neck flask, and heated and stirred at 80° C. for 5 hours to be reacted. Then, 5.0 g of N-[(ethylsulfanyl)(4-fluorophenyl)methylidene]-2,6-dimethylaniline was added to this mixed solution, and heated and stirred at 130° C. for 22 hours to be reacted. Further, a solution obtained by heating and stirring 0.90 g of ethyl propionate, 5 mL of 1-butanol, and 0.44 g of hydrazine monohydrate at 80° C. for 3 hours to be reacted was added to the above mixed solution, and the mixed solution was heated and stirred at 130° C. for 8 hours to be reacted. After the reaction, 1-butanol was distilled off under a reduced pressure. The resulting residue was purified by silica gel column chromatography. Ethyl acetate was used as a developing solvent. The resulting fraction was concentrated to give a solid. This solid was recrystallized from a mixed solvent of toluene and hexane, so that 4-(2,6-dimethylphenyl)-3-ethyl-5-(4-fluorophenyl)-4H-1,2,4-triazole (abbreviation: HEFptz-dmp) was prepared (a white solid, yield: 11%). The synthetic scheme of Step 1 is shown by (a-9).

reactant | ethyl propionate | 1.80 g | C(CC)(=O)OCC | C5H10O2
reactant | hydrazine monohydrate | 0.88 g | O.NN
reactant | N-[(ethylsulfanyl)(4-fluorophenyl)methylidene]-2,6-dimethylaniline | 5.0 g | C(C)SC(=NC1=C(C=CC=C1C)C)C1=CC=C(C=C1)F | C17H18FNS
reactant | ethyl propionate | 0.90 g | C(CC)(=O)OCC | C5H10O2
reactant | hydrazine monohydrate | 0.44 g | O.NN
solvent | 1-butanol | C(CCC)O | C4H10O
solvent | 1-butanol | 5 mL | C(CCC)O | C4H10O
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
product | 4-(2,6-dimethylphenyl)-3-ethyl-5-(4-fluorophenyl)-4H-1,2,4-triazole | yield: 11% | CC1=C(C(=CC=C1)C)N1C(=NN=C1C1=CC=C(C=C1)F)CC | C18H18FN3
